US08975254B2
N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-(pyridin-3-yl)-1H-pyrazole-3-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (50 mg) and 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid (44 mg) using the method of Example 34(d). Yield 27 mg. 1H-NMR (400 MHz; d6-DMSO): δ 3.74 (m, 2H), 4.42 (t, 2H), 7.07 (d, 1H), 7.17-7.28 (m, 1H), 7.50 (m, 1H), 7.90 (s, 1H), 8.05-8.20 (m, 2H), 8.31-8.42 (m, 1H), 8.52-8.59 (m, 1H), 8.69 (d, 1H), 8.92-9.04 (m, 1H), 13.79 (s, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 50 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
reactant | 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid | 44 mg | N1=CC(=CC=C1)C1=NNC(=C1)C(=O)O | C9H7N3O2
product | N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-(pyridin-3-yl)-1H-pyrazole-3-carboxamide | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=NNC(=C1)C=1C=NC=CC1)[N+](=O)[O-] | C21H16N8O3
